US08420640B2
To stirred solution of ethyl-1-(3-(benzylamino)-4-nitrophenyl)piperidine-4-carboxylate (2 g, 6.2 mmol) in 20 ml THF: H2O (3:1) was added lithium hydroxide (0.740 g, 30.9 mmol) at room temperature. The resulting mixture was stirred for 5 h, solvent was evaporated and residue was dissolved in water washed with dichloromethane. The aqueous layer was then neutralised with 2M HCl to get yellow solid 1-(3-(benzylamino)-4-nitrophenyl)piperidine-4-carboxylic acid (1.5 g), 90% yield: 1H NMR (500 MHz, DMSO): δ 1.46 (m, 2H), 1.80 (m, 2H), 3.03 (m, 2H), 3.82 (m, 2H), 4.59 (d, J=5.7 Hz, 2H), 5.94 (d, J=2.5 Hz, 1H), 6.40 (dd, J=2.5 Hz, 1H), 7.27 (m, 1H), 7.37 (m, 2H) 7.42 (m, 2H), 7.90 (d, J=9.8 Hz, 1H), 8.83 (m, 1H). HRMS (ESI) calculated for C19H21N3NaO4: 378.1424, Found: 378.1417.

reactant | ethyl-1-(3-(benzylamino)-4-nitrophenyl)piperidine-4-carboxylate | 6.2 mmol, 2 g | C(C)OC(=O)C1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])NCC1=CC=CC=C1 | C21H25N3O4
reactant | lithium hydroxide | 30.9 mmol, 0.740 g | [OH-].[Li+]
solvent | THF H2O | 20 ml | C1CCOC1.O
product | 1-(3-(benzylamino)-4-nitrophenyl)piperidine-4-carboxylic acid | 1.5 g, 90% yield | C(C1=CC=CC=C1)NC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)C(=O)O | C19H21N3O4
